US08865732B2
To a steel bomb were charged with 2-methoxyethanol (20 ml), 2-bromo-3-(difluoromethoxy)pyridine (1.95 g, 8.7 mmol), conc. aqueous NH4OH (28-30%, 5 ml, 79 mmol) and Cu2O (0.25 g, 1.7 mmol). The reaction mixture was heated at 100° C. for 23 h, then cooled to 0° C., and partitioned between mixture of EtOAc/aq. 3 N NaOH/H2O (40 ml/10 ml/30 ml). The organic phase layer was collected, washed with saturated aqueous NaHCO3 solution (30 ml), brine (40 ml), dried (Na2SO4), and concentrated to produce 1.12 g of 3-(difluoromethoxy)pyridin-2-amine which was carried forward without further purification:

reactant | 2-bromo-3-(difluoromethoxy)pyridine | 8.7 mmol, 1.95 g | BrC1=NC=CC=C1OC(F)F | C6H4BrF2NO
reactant | NH4OH | 79 mmol, 5 ml | [NH4+].[OH-]
solvent | 2-methoxyethanol | 20 ml | COCCO | C3H8O2
product | 3-(difluoromethoxy)pyridin-2-amine | 1.12 g | FC(OC=1C(=NC=CC1)N)F | C6H6F2N2O
